US07709496B2
(d) 8-[2-(4-amino-1-piperidinyl)ethyl]-2H-chromen-2-one hydrochloride
To a solution of (1,1-dimethylethyl {1-[2-(2-oxo-2H-chromen-8-yl)ethyl]-4-piperidinyl}carbamate (320 mg, 0.86 mmol) in 20% MeOH/CH2Cl2 (5 mL) at 0° C. was added a solution of HCl in dioxane (4 M, 1.0 mL). The reaction was warmed to RT and stirred for 16 h, then the solvents were removed under reduced pressure to afford the title compound (170 mg, 73%) as a pale yellow solid: MS (ES) m/e 273.0 (M+H)+.

reactant | 1,1-dimethylethyl {1-[2-(2-oxo-2H-chromen-8-yl)ethyl]-4-piperidinyl}carbamate | 0.86 mmol, 320 mg | O=C1OC2=C(C=CC=C2C=C1)CCN1CCC(CC1)NC(OC(C)(C)C)=O | C21H28N2O4
reactant | HCl | Cl | ClH
solvent | MeOH CH2Cl2 | 5 mL | CO.C(Cl)Cl
solvent | dioxane | 4 M, 1.0 mL | O1CCOCC1 | C4H8O2
product | 8-[2-(4-amino-1-piperidinyl)ethyl]-2H-chromen-2-one hydrochloride | 170 mg, 73% | Cl.NC1CCN(CC1)CCC=1C=CC=C2C=CC(OC12)=O | InChI=1S/C16H20N2O2.ClH/c17-14-7-10-18(11-8-14)9-6-13-3-1-2-12-4-5-15(19)20-16(12)13;/h1-5,14H,6-11,17H2;1H
